US06730684B1
Preparation of 4-Amino-N-methyl-N-(1-methyl-1H-indol-2-ylmethyl)-2-phenoxybenzamide
To 4-amino-2-phenoxybenzoic acid hydrochloride (1.0 g, 3.4 mmole) in 1:1 DMF/CH2Cl2 (75 mL) was added 1-methyl-2-(methylaminomethyl)indole (0.61 g, 3.5 mmole), HOBt.H2O (0.47 g, 3.5 mmole), Et3N (1.0 mL, 7.1 mmole), then EDC (0.67 g, 3.5 mmole). The reaction was stirred at RT for 16 hr then was concentrated under vacuum. The residue was taken up in EtOAc (200 mL) and-the solution was washed with water, dried (Na2SO4), and concentrated. Flash chromatography on silica gel (2% MeOH/CHCl3, then rechromatography using 70% EtOAc/hexanes) gave the title compound (0.62 g, 42%) as a white solid: MS (ES) m/e 386.2 (M+H)+.

reactant | 4-amino-2-phenoxybenzoic acid hydrochloride | 3.4 mmole, 1.0 g | Cl.NC1=CC(=C(C(=O)O)C=C1)OC1=CC=CC=C1
reactant | 1-methyl-2-(methylaminomethyl)indole | 3.5 mmole, 0.61 g | CN1C(=CC2=CC=CC=C12)CNC | C11H14N2
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 3.5 mmole, 0.47 g | O | H2O
reactant | Et3N | 7.1 mmole, 1.0 mL | CCN(CC)CC | C6H15N
reactant | EDC | 3.5 mmole, 0.67 g
solvent | DMF CH2Cl2 | 75 mL | CN(C)C=O.C(Cl)Cl
product | 4-Amino-N-methyl-N-(1-methyl-1H-indol-2-ylmethyl)-2-phenoxybenzamide | 0.62 g, 42% | NC1=CC(=C(C(=O)N(CC=2N(C3=CC=CC=C3C2)C)C)C=C1)OC1=CC=CC=C1 | C24H23N3O2
